US04971993
N-t-butyloxycarbonyl-L-phenylalanine (36.54 g, 137.7 mmole), L-proline benzylester hydrochloride (33.84 g, 140 mmole) and HOBT (18.91 g, 140 mmole) were dissolved in methylene chloride (500 ml), and triethylamine (14.17 g, 140 mmole) and WSC hydrochloride (26.40 g, 137.7 mmole) were added thereto at -30° C. The solution was stirred for 2 hours at less than 0° C. and then overnight at room temperature. The solution was washed with 5% aqueous sodium bicarbonate (400 ml, twice), 5% aqueous citric acid (400 ml, twice) and water (400 ml) in the order given, and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure. The oily residue thus obtained was crystallized from ethyl acetate and n-hexane to give N-t-butyloxycarbonyl-L-phenylalanyl-L-proline benzylester (yield: 51.61 g, 82.8%).

reactant | N-t-butyloxycarbonyl-L-phenylalanine | 137.7 mmole, 36.54 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
reactant | L-proline benzylester hydrochloride | 140 mmole, 33.84 g | Cl.C(C1=CC=CC=C1)OC([C@H]1NCCC1)=O
reactant | HOBT | 140 mmole, 18.91 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 140 mmole, 14.17 g | C(C)N(CC)CC | C6H15N
reactant | WSC hydrochloride | 137.7 mmole, 26.40 g | CCN=C=NCCCN(C)C.Cl
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | N-t-butyloxycarbonyl-L-phenylalanyl-L-proline benzylester | yield: 51.61 g, 82.8% | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O)=O | C26H32N2O5
